US05180733
Step 2: 2-(3-Chlorophenyl)-1-nitroethene
A mixture of 28.11 g (200 mmol) of 3-chlorobenzaldehyde, 15.4 g of ammonium acetate and 32.5 mL of nitromethane in 230 mL of glacial acetic acid was heated at reflux temperature for 3 h and then poured onto ice. The resultant aqueous mixture was made basic by the addition of 45% aqueous potassium hydroxide. The precipitate was filtered and crystallized from ethyl acetate/hexane to give 5 g of the title compound. The filtrate was concentrated to afford an additional 13.5 g of product.

reactant | 3-chlorobenzaldehyde | 200 mmol, 28.11 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | ammonium acetate | 15.4 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 32.5 mL | [N+](=O)([O-])C | CH3NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 230 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Chlorophenyl)-1-nitroethene | 5 g | ClC=1C=C(C=CC1)C=C[N+](=O)[O-] | C8H6ClNO2
